US09422331B2
To a rt solution of tert-butyl(2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (60.3 mg, 147 μmol) in DMF (366 μl) was added 6-bromo-1-(chloromethyl)-2-methoxynaphthalene (50.2 mg, 176 μmol), cesium carbonate (62.1 mg, 191 μmol), and sodium iodide (28.6 mg, 191 μmol). The reaction was stirred at rt for 4 h, then diluted with EtOAc (30 mL), washed with H2O (30 mL) and sat. aq. NaCl (30 mL), dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (75 mg, 78% yield) as a white solid. MS m/z 682/684 (MNa)+

reactant | tert-butyl(2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 147 μmol, 60.3 mg | C[C@H]1[C@@H](C(NC2=C(N1C(CS(=O)(=O)C)=O)C=CC=C2)=O)NC(OC(C)(C)C)=O | C18H25N3O6S
reactant | 6-bromo-1-(chloromethyl)-2-methoxynaphthalene | 176 μmol, 50.2 mg | BrC=1C=C2C=CC(=C(C2=CC1)CCl)OC | C12H10BrClO
reactant | cesium carbonate | 191 μmol, 62.1 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 191 μmol, 28.6 mg | [I-].[Na+]
solvent | DMF | 366 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 75 mg, 78% yield | BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC(OC(C)(C)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2)OC | C30H34BrN3O7S
